US09145407B2
4-Fluoro-5-iodobenzenesulfonyl chloride
2-Fluoroiodobenzene (0.58 mL, 5.0 mmol) was added dropwise to chlorosulfonic acid (1.66 mL, 25 mmol) at 0° C. The reaction mixture was allowed to warm to ambient temperature and stirred for 2 hours. The reaction mixture was poured into ice and the mixture was extracted with dichloromethane (3×30 mL). The combined organic layer was dried over magnesium sulfate and concentrated in vacuo to obtain a crude residue. The crude residue was dissolved in heptane (100 mL) and the suspension was filtered. The filtrate was concentrated in vacuo to afford the title compound.

reactant | 2-Fluoroiodobenzene | 5.0 mmol, 0.58 mL | FC1=C(C=CC=C1)I | C6H4FI
reactant | chlorosulfonic acid | 25 mmol, 1.66 mL | ClS(=O)(=O)O | ClHO3S
solvent | heptane | 100 mL | CCCCCCC | C7H16
product | 4-Fluoro-5-iodobenzenesulfonyl chloride | FC1=CC=C(C=C1I)S(=O)(=O)Cl | C6H3ClFIO2S
